US06130223
1.67 g of 2-chloro-6-methyl-4-(3,4-methylenedioxybenzylamino)-thieno-[2,3-d]-pyrimidine and 3 g of ethyl piperidine-4-carboxylate are heated at 130° for 3 hours. After cooling, the residue is dissolved in methylene chloride and the solution is worked up in the customary manner. 0.5 g of ethyl 1-[6-methyl-4-(3,4-methylenedioxybenzylamino)-thieno-[2,3-d]-pyrimidine-2-yl]-piperidine-4-carboxylate is obtained.

reactant | 2-chloro-6-methyl-4-(3,4-methylenedioxybenzylamino)-thieno-[2,3-d]-pyrimidine | 1.67 g | ClC=1N=C(C2=C(N1)SC(=C2)C)NCC2=CC1=C(C=C2)OCO1 | C15H12ClN3O2S
reactant | ethyl piperidine-4-carboxylate | 3 g | N1CCC(CC1)C(=O)OCC | C8H15NO2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 1-[6-methyl-4-(3,4-methylenedioxybenzylamino)-thieno-[2,3-d]-pyrimidine-2-yl]-piperidine-4-carboxylate | 0.5 g | CC1=CC2=C(N=C(N=C2NCC2=CC3=C(C=C2)OCO3)N3CCC(CC3)C(=O)OCC)S1 | C23H26N4O4S
